US04035512
In 30 ml. of methanol are suspended 250 mg. of cis-6-benzyloxy-2-(N-benzyl-N-methylamino)-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride and 5 % palladium-on-carbon, and the mixture is agitated in hydrogen streams at room temperature for 30 minutes. After the reaction, the catalyst is filtered off and the filtrate is concentrated under reduced pressure. The procedure provides cis-5-cyano-1,6-dihydroxy-2-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride as a white precipitate. Recrystallization from ethanol-ethyl acetate provides colorless crystals melting at 226°-227° C(decomp.). Yield 112 mg.

reactant | methanol | CO | CH4O
reactant | cis-6-benzyloxy-2-(N-benzyl-N-methylamino)-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C(=C2CC[C@@H]([C@@H](C2=CC1)O)N(C)CC1=CC=CC=C1)C#N
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | cis-5-cyano-1,6-dihydroxy-2-methylamino-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.C(#N)C1=C2CC[C@@H]([C@@H](C2=CC=C1O)O)NC | InChI=1S/C12H14N2O2.ClH/c1-14-10-4-2-7-8(12(10)16)3-5-11(15)9(7)6-13;/h3,5,10,12,14-16H,2,4H2,1H3;1H/t10-,12+;/m0./s1
